************************************************************************
* auCdl Netlist:
* 
* Library Name:  VEDANT
* Top Cell Name: SenseAmplifier
* View Name:     schematic
* Netlisted on:  Jul  8 18:11:37 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: VEDANT
* Cell Name:    SenseAmplifier
* View Name:    schematic
************************************************************************

.SUBCKT SenseAmplifier BL BLB SE VDD VOUT VSS
*.PININFO VOUT:O BL:B BLB:B SE:B VDD:B VSS:B
MM1 VOUT net2 VDD VDD P W=0.42 L=0.18 m=1
MM0 net2 net2 VDD VDD P W=0.42 L=0.18 m=1
MM4 net3 SE VSS VSS N W=0.42 L=0.18 m=1
MM3 net2 BL net3 VSS N W=0.42 L=0.18 m=1
MM2 VOUT BLB net3 VSS N W=0.42 L=0.18 m=1
.ENDS

