************************************************************************
* auCdl Netlist:
* 
* Library Name:  VEDANT
* Top Cell Name: Write_Driver
* View Name:     schematic
* Netlisted on:  Jul  4 21:21:57 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: VEDANT
* Cell Name:    CMOS_INV
* View Name:    schematic
************************************************************************

.SUBCKT CMOS_INV out vdd vin vss
*.PININFO vdd:I vin:I vss:I out:O
MM1 out vin vss vss N W=0.42 L=0.18 m=1
MM0 out vin vdd vdd P W=0.42 L=0.18 m=1
.ENDS

************************************************************************
* Library Name: VEDANT
* Cell Name:    Write_Driver
* View Name:    schematic
************************************************************************

.SUBCKT Write_Driver BL BLB Din VDD VSS
*.PININFO Din:I VDD:I VSS:I BL:O BLB:O
XI2 net1 VDD Din VSS / CMOS_INV
XI3 BLB VDD Din VSS / CMOS_INV
XI0 BL VDD net1 VSS / CMOS_INV
.ENDS

