* SPICE NETLIST
***************************************

.SUBCKT cmos_inv
** N=4 EP=0 IP=0 FDC=2
M0 4 1 3 3 N L=1.8e-07 W=4.2e-07 $X=2310 $Y=1100 $D=2
M1 4 1 2 2 P L=1.8e-07 W=4.2e-07 $X=2310 $Y=2850 $D=6
.ENDS
***************************************
