************************************************************************
* auCdl Netlist:
* 
* Library Name:  VEDANT
* Top Cell Name: cmos_inv
* View Name:     schematic
* Netlisted on:  Jul  2 20:00:31 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: VEDANT
* Cell Name:    cmos_inv
* View Name:    schematic
************************************************************************

.SUBCKT cmos_inv out vdd vin vss
*.PININFO vdd:I vin:I vss:I out:O
MM0 out vin vdd vdd P W=0.42 L=0.18 m=1
MM1 out vin vss vss N W=0.42 L=0.18 m=1
.ENDS

